US05021581
A solution of the crude methyl 2-[1-(3-chlorophenoxy)ethyl]benzoate described above (14.8 g) in THF (50 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (1.93 g) in THF (70 ml) cooled to 0°-5° C. Following the addition, the reaction mixture was stirred at about 0° C. for 30 minutes, then at room temperature for 2 hours. It was poured carefully into water and was extracted with ether. The extracts were washed successively with water (×2) and brine, then dried and concentrated to give 2-[1-(3-chlorophenoxy)ethyl]benzyl alcohol (11.72 g, 85% pure by GC) as a yellow oil.

reactant | methyl 2-[1-(3-chlorophenoxy)ethyl]benzoate | ClC=1C=C(OC(C)C2=C(C(=O)OC)C=CC=C2)C=CC1 | C16H15ClO3
reactant | lithium aluminium hydride | 1.93 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-[1-(3-chlorophenoxy)ethyl]benzyl alcohol | 11.72 g, 85% | ClC=1C=C(OC(C)C2=C(CO)C=CC=C2)C=CC1 | C15H15ClO2
